US04565659
2-(3-hexadecyl-1-methylureido)-ethanol-phosphocholine
0.5 g of 2-methylamino-ethanol-phosphocholine is dissolved in 10 ml of N-methylacetamide; the solution is mixed with 1.08 g of hexadecyl-isocyanate and stirred for 24 hours at room temperature. The solution is reduced in vacuo and the residue purified by column chromatography (silica gel//chloroform/methanol/water).

reactant | 2-methylamino-ethanol phosphocholine | 0.5 g | CNCCO.P(=O)(O)(O)OCC[N+](C)(C)C
reactant | hexadecyl-isocyanate | 1.08 g | C(CCCCCCCCCCCCCCC)N=C=O | C17H33NO
solvent | N-methylacetamide | 10 ml | CNC(C)=O | C3H7NO
product | 2-(3-hexadecyl-1-methylureido)-ethanol phosphocholine | C(CCCCCCCCCCCCCCC)NC(N(C)CCO)=O.P(=O)(O)(O)OCC[N+](C)(C)C | InChI=1S/C20H42N2O2.C5H14NO4P/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-20(24)22(2)18-19-23;1-6(2,3)4-5-10-11(7,8)9/h23H,3-19H2,1-2H3,(H,21,24);4-5H2,1-3H3,(H-,7,8,9)/p+1
